US05062959
Metildigoxin
4.75 l. of eluate with 40% ethanol contain 3.91 g. of solid material. The mixture contains all non-reacted digoxin, α-metildigoxin and β-metildigoxin and can again be separated on the column. The following fraction of 5 l. contains 4.73 g. of slightly contaminated β-metildigoxin. If the ethanol content is increased, diethers and higher ethers of digoxin are eluted. The main fraction with metildigoxin is reprecipitated from methanol/water, boiled up with chloroform and stirred up with acetone.

reactant | digoxin | C[C@@H]1[C@H]([C@H](C[C@@H](O1)O[C@@H]2[C@H](O[C@H](C[C@@H]2O)O[C@@H]3[C@H](O[C@H](C[C@@H]3O)O[C@H]4CC[C@]5([C@@H](C4)CC[C@@H]6[C@@H]5C[C@H]([C@]7([C@@]6(CC[C@@H]7C8=CC(=O)OC8)O)C)O)C)C)C)O)O | C41H64O14
reactant | ethanol | C(C)O | C2H6O
product | Metildigoxin | C[C@@H]1[C@H]([C@H](C[C@@H](O1)O[C@@H]2[C@H](O[C@H](C[C@@H]2O)O[C@@H]3[C@H](O[C@H](C[C@@H]3O)O[C@H]4CC[C@]5([C@@H](C4)CC[C@@H]6[C@@H]5C[C@H]([C@]7([C@@]6(CC[C@@H]7C8=CC(=O)OC8)O)C)O)C)C)C)O)OC | C42H66O14
